US04444775
A solution of 2.45 g of 5-[5-(N-methylcarbamoyl)pentyl]imidazo[1,5-a]pyridine in 25 ml of dimethylformamide is treated with 0.011 mole of sodium hydride (obtained by washing 0.53 g of 50% NaH dispersion in mineral oil with hexane) and warmed briefly on a steam bath. Methyl iodide (1.56 g) is added to the cooled yellow solution. The mixture is stirred at room temperature for 2 hours, diluted with water and extracted first with a 1:1 mixture of ethyl acetate and ether and subsequently with chloroform. The residue obtained on evaporation of the combined extracts to dryness is dissolved in ether and treated with ethanolic hydrochloric acid. The precipitated salt is collected, recrystallized first from acetonitrile/ethyl acetate and then from ethanol/ether to yield 5-[5-(N,N-dimethylcarbamoyl)pentyl]imidazo[1,5-a]pyridine hydrochloride melting at 166°-71°.

reactant | 5-[5-(N-methylcarbamoyl)pentyl]imidazo[1,5-a]pyridine | 2.45 g | CNC(=O)CCCCCC1=CC=CC=2N1C=NC2 | C14H19N3O
reactant | sodium hydride | 0.011 mole, 0.53 g | [H-].[Na+]
reactant | Methyl iodide | 1.56 g | CI | CH3I
reactant | hydrochloric acid | Cl | ClH
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 5-[5-(N,N-dimethylcarbamoyl)pentyl]imidazo[1,5-a]pyridine hydrochloride | Cl.CN(C(=O)CCCCCC1=CC=CC=2N1C=NC2)C | InChI=1S/C15H21N3O.ClH/c1-17(2)15(19)10-5-3-4-7-13-8-6-9-14-11-16-12-18(13)14;/h6,8-9,11-12H,3-5,7,10H2,1-2H3;1H
